US09371333B2
6-Amino-8-(3-bromo-4,5-dimethoxy-phenyl)-8H-[1,3]dioxolo[4,5-g]chromene-7-carbonitrile (38)
3-Bromo-4,5-dimethoxy-benzaldehyde (245 mg, 1 mmol), malononitrile (66 mg, 1 mmol) and sesamol (166 mg, 1.2 mmol) were taken in 10 ml ethanol, charged with piperidine (50 μl, 0.5 mmol) and stirred at room temperature for 3 h. The reaction mixture was then stirred at 80° C. for 64 h. Reaction was complete with the desired product. The reaction mixture was first cooled down to room temperature, diluted with water to about 30 ml, precipitates were collected by filtration, washed with 1:1 mixture of water and methanol (30 ml) and dried to pure solids (348 mg, 81%) under high vacuum.

reactant | 3-Bromo-4,5-dimethoxy-benzaldehyde | 1 mmol, 245 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | sesamol | 1.2 mmol, 166 mg | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | piperidine | 0.5 mmol, 50 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Amino-8-(3-bromo-4,5-dimethoxy-phenyl)-8H-[1,3]dioxolo[4,5-g]chromene-7-carbonitrile | NC=1OC=2C=C3C(=CC2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)OCO3 | C19H15BrN2O5
